US05981576
Step 1: (RS) -1-(4-Methylthiophenyl)-2-methyl-1-butanone
To a suspension of AlCl3 (35.4 g) in CHCl3 (500 mL) at -10° C. was added dropwise 2-methylbutyryl chloride (31.3 g) followed by thioanisole (31.2 mL). The mixture was then stirred at r.t. for 20 min. and was then cooled back to 0° C. Water (200 mL) was then added over 30 min. The CHCl3 layer was separated and dried over MgSO4. After filtration and removal of the solvent, the residue was dried under vacuum at 80° C. for 2 h to give 35 g of the title compound.

reactant | AlCl3 | 35.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-methylbutyryl chloride | 31.3 g | CC(C(=O)Cl)CC | C5H9ClO
reactant | thioanisole | 31.2 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | Water | 200 mL | O | H2O
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | (RS) -1-(4-Methylthiophenyl)-2-methyl-1-butanone | 35 g | CSC1=CC=C(C=C1)C(C(CC)C)=O | C12H16OS
